US07183290B2
A. Tert-butyl 1-(4-cyanophenyl)piperidin-4-ylcarbamate.
A DMSO (25 mL, 0.1M) solution containing 4-N—BOC-aminopiperidine (500 mg, 2.5 mmol, 1.0 eq), 4-fluorobenzonitrile (303 mg, 2.5 mmol, 1.0 eq), and potassium carbonate (691 mg, 5.0 mmol, 2.0 eq) was heated to 100° C. for 18 h. The resulting mixture was cooled to RT, poured in H2O (ca 50 mL), and extracted (3×) with EtOAc. The combined extracts were washed (2×) with H2O, dried over MgSO4, and concentrated in vacuo. The resulting solid was used in the next step without further purification. Isolated 642 mg (2.13 mmol, 85% yield).

reactant | DMSO | 0.1M, 25 mL | CS(=O)C | C2H6OS
reactant | 4-N—BOC-aminopiperidine | 2.5 mmol, 500 mg, 1.0 eq | CC(C)(C)OC(=O)NC1CCNCC1 | C10H20N2O2
reactant | 4-fluorobenzonitrile | 2.5 mmol, 303 mg, 1.0 eq | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | potassium carbonate | 5.0 mmol, 691 mg, 2.0 eq | C([O-])([O-])=O.[K+].[K+]
solvent | H2O | ca 50 mL | O | H2O
product | Tert-butyl 1-(4-cyanophenyl)piperidin-4-ylcarbamate | 85% yield | C(#N)C1=CC=C(C=C1)N1CCC(CC1)NC(OC(C)(C)C)=O | C17H23N3O2
